Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
latex / Augmentin
 
Attending: ___
 
Chief Complaint:
Petechiae, purpura, lower extremity swelling, ankle tenderness 
(predominantly R side)
 
Major Surgical or Invasive Procedure:
Skin biopsy ___

 
History of Present Illness:
In brief, Dr. ___ is a ___ yo general pediatrician at ___ 
___ with a complicated ophtho hx (spontaneous retinal 
tear several years ago) p/w bilateral lower extremity palpable 
purpura, transaminitis, and microscopic hematuria beginning 7 
days after starting Augmentin for suspected sialolithiasis of 
the R submandibular gland. 

On ___, pt initially presented to urgent care with 1 day of 
painful swelling below the right of midline mandible of the jaw. 
She was rxed empirically with Augmentin (875mg PO BID x 10d). On 
___, she followed up w/ ENT, who suspected sialolithiasis (on 
their exam R SMG enlarged, TTP, mobile) and ordered CT Neck but 
pt never actually had imaging done. On ___, she presented to 
urgent care again w/ improvement in R submandibular pain and 
swelling, but had low grade fever, and a painful purpuric rash 
most prominently on the R shin.

During this time, she did not have any chills, night sweats, 
weight loss, shortness of breath, chest discomfort, abdominal 
pain, diarrhea, headaches, vision changes, or changes to her 
urine. 

Per recs of on-call rheumatology, Augmentin was stopped and she 
was transferred to ___ ED for further evaluation. 

In the ED, her initial vitals were 98.8, HR 111, BP 97/75, RR 
16, 99% RA.

Her exam was notable for:
Palpable purpura with areas of petechiae and confluence on RLE, 
extending from the R ankle to R knee; LLE less involved
No rash on abdomen, back, buttocks, face/head/neck/extremities
Left ankle equisitely tender

Labs notable for:
WBC 8.1 (85% polys) 
INR 1.2 
BUN/SCr ___ RBCs in urine) 
AST/ALT 156/126
AlkPhos 112
LDH 365 
Fibrinogen 574 
D-dimer 1355
Lactate 1.1 

Imaging notable for:
CXR - No acute cardiopulmonary process. 

Pt given:
___ 16:54 PO Doxycycline Hyclate 100 mg  
___ 16:54 IV Ketorolac 30 mg   

Vitals prior to transfer: 98.5 92 135/80 17 99% RA 

On the floor, pt reported pain and swelling of her R > L legs; 
she felt that the R ankle was particular tender, with the 
greatest pain located just inferior to the right lateral 
malleolus.  Her skin findings were somewhat painful as well. She 
was otherwise comfortable and well appearing. 

Of note, patient denied any recent travel, hikes in the woods, 
sexual contacts (has been many years), drug use, or animal 
exposures. Given her job as ___, she does have sick 
contacts.  Her routine cancer screening is up to date. Her 
family history is notable in that her mother had ___ 
syndrome and breast cancer and her father had pancreatic cancer 
- otherwise there is no other family history of autoimmune 
disease or cancer. 

REVIEW OF SYSTEMS: 

+low grade fever
+dry eyes
+dry cough (the cough is long-standing and tends to flare up 
during this time of year)
 
Past Medical History:
-Retinal tear R eye
-GERD
-Asthma/allergies  

 
Social History:
___
Family History:
Father - HTN, DM, glaucoma, pancreatic cancer 
Mother - ___ cancer, ___, died from CVD
Twin sister - healthy
 
Physical ___:
ADMISSION PHYSICAL EXAM:
======================

Vital Signs:  98.2 119/70 96 18 96%RA 
General: Alert, oriented, no acute distress  
HEENT: right ptosis (chronic), right eye minimally reactive, 
oral mucosa notable for bilateral erythematous lesions in the 
area of the opening of the parotid duct, 
Neck: Fullness in the right submandibular area
Lymph nodes: no cervical, suplraclavicular, axillary, inguinal 
lymphadenopathy  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended 
Skin: right leg more swollen than left, right leg with confluent 
palpable purpura with scattered petechiae tracking up inner 
thihg. Left leg with tender raised nodules and petechiae. Images 
in OMR.   
Ext: Warm, well perfused, 2+ pulses
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  

DISCHARGE PHYSICAL EXAM:
======================
Vitals: 97.8 PO 128 / 88 R Sitting 83 18 98 Ra   
General: Alert, oriented, no acute distress  
HEENT: right ptosis (chronic). There are erythematous lesions 
near the entrances of the parotid ducts bilaterally.
Neck: Fullness in the right submandibular area
Lymph nodes: no cervical lymphadenopathy  
CV: RRR, normal S1 + S2, no murmurs, rubs, gallops  
Lungs: CTAB  
Abdomen: Soft, non-tender, non-distended 
Skin: R leg with confluent palpable purpura with scattered 
petechiae tracking up inner thigh. R leg more swollen than left. 
R ankle swollen and tender. Left leg with ___ tender raised 
nodules and petechiae. L thigh with new streaks of petchiae and 
purpura extending to buttocks. 
Ext: Warm, well perfused.
Neuro: Grossly normal motor function and sensation

 
Pertinent Results:
ADMISSION LABS:
==============

___ 05:30PM BLOOD WBC-8.1 RBC-4.09 Hgb-12.4 Hct-37.5 MCV-92 
MCH-30.3 MCHC-33.1 RDW-12.5 RDWSD-42.0 Plt ___
___ 05:30PM BLOOD Neuts-85.0* Lymphs-6.4* Monos-5.2 Eos-3.1 
Baso-0.1 Im ___ AbsNeut-6.85* AbsLymp-0.52* AbsMono-0.42 
AbsEos-0.25 AbsBaso-0.01
___ 05:30PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL 
Envelop-OCCASIONAL
___ 05:30PM BLOOD ___ PTT-30.7 ___
___ 05:30PM BLOOD ___
___ 05:30PM BLOOD Glucose-121* UreaN-8 Creat-0.8 Na-139 
K-3.5 Cl-100 HCO3-23 AnGap-20
___ 05:30PM BLOOD ALT-126* AST-156* LD(LDH)-365* 
CK(CPK)-109 AlkPhos-112* TotBili-0.4
___ 05:30PM BLOOD cTropnT-<0.01
___ 05:30PM BLOOD Albumin-4.1
___ 05:30PM BLOOD D-Dimer-1355*
___ 05:30PM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-Negative
___ 05:30PM BLOOD ANCA-NEGATIVE B
___ 05:30PM BLOOD ___ CRP-61.6*
___ 05:30PM BLOOD IgG-969 IgA-163 IgM-59
___ 05:30PM BLOOD C3-165 C4-51*
___ 05:30PM BLOOD HCV Ab-Negative
___ 05:36PM BLOOD Lactate-1.1
___ 09:30PM BLOOD SED RATE-Test-36*

DISCHARGE LABS:
==============
___ 06:40AM BLOOD WBC-6.9 RBC-3.69* Hgb-11.3 Hct-34.9 
MCV-95 MCH-30.6 MCHC-32.4 RDW-12.7 RDWSD-44.3 Plt ___
___ 06:40AM BLOOD Glucose-81 UreaN-15 Creat-0.7 Na-143 
K-4.2 Cl-106 HCO3-27 AnGap-14
___ 06:40AM BLOOD ALT-120* AST-53* LD(LDH)-258* 
AlkPhos-121* TotBili-0.2
___ 06:40AM BLOOD Calcium-9.1 Phos-4.0 Mg-2.3

OTHER PERTINENT LABS:
=====================
___ 03:20PM BLOOD Cryoglb-PND
___ 05:30PM BLOOD D-Dimer-1355*
___ 05:30PM BLOOD HBsAg-Negative HBsAb-Positive 
HBcAb-Negative
___ 05:30PM BLOOD ANCA-NEGATIVE B
___ 05:30PM BLOOD ___ CRP-61.6*
___ 03:20PM BLOOD PEP-NO SPECIFI ___ FreeLam-26.3 
Fr K/L-0.72
___ 05:30PM BLOOD IgG-969 IgA-163 IgM-59
___ 05:30PM BLOOD C3-165 C4-51*
___ 05:30PM BLOOD HCV Ab-Negative
___ 09:30PM BLOOD SED RATE-Test      
___ 05:30PM BLOOD RO & ___  

MICROBIOLOGY:
=============

Urine culture negative
2x blood cultures pending

IMAGING:
========
Chest:  Frontal (PA) and lateral views, X-ray
COMPARISON:  None.
FINDINGS: 
No focal consolidation is seen.  There is no pleural effusion or 
pneumothorax.
The cardiac and mediastinal silhouettes are unremarkable.  No 
pulmonary edema
is seen.
IMPRESSION: 
No acute cardiopulmonary process.  If clinical concern persists 
for small
pulmonary nodules, chest CT is more sensitive.
    
 
Brief Hospital Course:
Dr. ___ is a ___ year old woman w/ h/o spontaneous retinal tear 
admitted w/ palpable purpura in bilateral lower extremities and 
right ankle swelling in the setting of Augmentin (which she 
started for suspected sialolithiasis and submandibular gland 
infection), found to have leukocytoclastic vasculitis and 
improved with cessation of Augmentin and initiation of 
prednisone.

ACTIVE ISSUES:
=============

#Leukocytoclastic vasculitis (LCV): 
Patient presented with palpable purpura of the bilateral lower 
extremities with right ankle swelling. Labs notable for 
transaminitis and microscopic hematuria. Seen by dermatology and 
rheumatology and underwent skin biopsy with pathology confirming 
leukocytoclastic vasculitis (LCV). The recent history of 
Augmentin usage and infection is consistent with LCV. Her 
Augmentin was held and she was started on prednisone to which 
she improved. At the time of discharge, she was having resolving 
transaminitis, resolved microscopic hematuria, and improved 
ankle right pain and lower right leg swelling, although still 
noticing new petechiae, which can be seen in LCV despite 
withdrawal of offending stimulus. Continued on prednisone 20mg 
daily on discharge with a plan to decrease to 15mg daily after 
one week and follow up with rheumatology and dermatology. 

#Right submandibular gland swelling: 
Patient initially presented to an outside urgent care clinic on 
___ with right submandibular gland swelling and tenderness, 
started empirically on Augmentin, and initially thought to have 
sialolithiasis with concurrent infection, which is plausible 
given that patient's symptoms improved with Augmentin therapy. 
However, given the family history of ___ and the patient's 
joint symptoms on her admission to ___, there was concern that 
her initial jaw tenderness could have been part of a broader 
rheumatological process and a rheumatological workup was done. 
At the time of discharge, her workup was notable for negative 
___, negative ANCA, and negative Sjogren antibodies, and the 
patient's right submandibular gland swelling and tenderness had 
improved significantly and she was otherwise stable. She will 
need to follow up with ENT after discharge, and consider 
possible CT scan.

CHRONIC ISSUES:
==============
#Retinal tear: Continued home eye drops

TRANSITIONAL ISSUES:
==================
1.) Patient should have sutures removed on ___ from her biopsy 
site. 
2.) If pruritus develops, dermatology recommended triamcinolone 
0.1% ointment BID to affected areas - use up to two weeks per 
month.
3.) Patient's malignancy screening should be clarified to ensure 
that she is up to date
4.) Pt needs to follow up with ENT for management of the right 
submandibular gland swelling. Consider outpatient CT neck per 
ENT.
5.) Pt needs to continue prednisone 20mg daily and then decrease 
to 15mg daily after one week until follow up with outpatient 
rheumatology.
6.) Augmentin added to the allergy list. It is unclear whether 
patient can be exposed to penicillins in the future; can 
consider outpatient allergy referral 
7.) Pt needs to have repeat LFTs as an outpatient. Consider 
further workup if not resolved

# CONTACT: Sister/HCP ___ ___ 
# CODE STATUS: Full (presumed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE 1 TIMES 
PER DAY, ALTERNATING WITH 2 TIMES PER DAY  
2. Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE TID 
3. brimonidine 0.2 % ophthalmic BID 
4. Fexofenadine 180 mg PO DAILY:PRN allergies 
5. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath  

 
Discharge Medications:
1.  PredniSONE 20 mg PO DAILY 
Take 20mg daily for 7 days, then decrease to 15mg daily 
RX *prednisone 10 mg 2 tablet(s) by mouth Daily Disp #*40 Tablet 
Refills:*0 
2.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath   
3.  brimonidine 0.2 % ophthalmic BID  
4.  Dorzolamide 2% Ophth. Soln. 1 DROP RIGHT EYE TID  
5.  Fexofenadine 180 mg PO DAILY:PRN allergies  
6.  PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE 1 
TIMES PER DAY, ALTERNATING WITH 2 TIMES PER DAY   

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Leukocytoclastic vasculitis secondary to Augmentin usage and 
infection

Secondary:
Sialolithiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Dr. ___, 

___ was a pleasure taking care of you during your hospital stay 
at ___. You were hospitalized 
for the onset of petechiae, purpura, lower leg swelling, and 
ankle tenderness, predominantly on your right lower leg, in the 
setting of 7 days of Augmentin usage. Upon admission, you were 
found to have signs of mild injury to your liver and kidney. You 
were found to have a leukocytoclastic vasculitis and your 
symptoms managed with cessation of Augmentin and initiation of 
prednisone, to which you responded well.

On discharge, it is important for you to continue applying 
vaseline to your biopsy site with a change in the bandaid daily. 
Continue to wrap the leg and elevate it to facilitate resolution 
of the edema. If the rash worsens or becomes more bothersome, 
please page dermatology at ___ during business hours or call 
___ and request pager ___ after hours.

Please continue to take your home medications as prescribed. In 
particular, you should take 20 mg of prednisone daily for 1 week 
from discharge, after which you should take 15 mg of prednisone 
daily until you have your follow-up rheumatology appointment. 

For management of your pain, ibuprofen or tylenol are acceptable 
but do not exceed 2 g tylenol daily given your recent 
transaminitis.

Take Care,
Your ___ Team. 
 
Followup Instructions:
___